### PR TITLE
[Merged by Bors] - feat(RingTheory/Localization/*): add `IsLocalization.algEquivOfAlgEquiv` and other results

### PR DESCRIPTION
**Pull request by acmepjz**
- `MulEquivClass.map_nonZeroDivisors`: `MulEquiv` preserves non-zero divisors
- `IsLocalization.algEquivOfAlgEquiv`: generalizes `IsLocalization.ringEquivOfRingEquiv`
- rename `IsFractionRing.fieldEquivOfRingEquiv` -> `IsFractionRing.ringEquivOfRingEquiv` as it does not require field assumption anymore
- `IsFractionRing.algEquivOfAlgEquiv`: generalize `IsFractionRing.ringEquivOfRingEquiv`
- `IsLocalization.liftAlgHom`, `IsFractionRing.liftAlgHom`: `AlgHom` version of `lift`
- generalize `FractionRing.algEquiv` to ring case
- remove `IsDomain` assumption as much as possible. This makes the left hand side of `mk'_eq_zero_iff_eq_zero` not a simp normal form, so it's removed from simp lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 1]
```diff
@@ -134,6 +134,74 @@ protected lemma bijective (f : S →+* Q) (hf : f.comp (algebraMap R S) = algebr
...
+include hf
+
+/-- `AlgHom` version of `IsLocalization.lift`. -/
+noncomputable def liftAlgHom : S →ₐ[A] P :=
+  { lift hf with
+    commutes' := by
+      intro r
+      change lift hf (algebraMap A S r) = _
+      simp [IsScalarTower.algebraMap_apply A R S]
+  }
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Basic.lean:153]:
```suggestion
      simp [IsScalarTower.algebraMap_apply A R S] }
```

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 2]
```diff
@@ -134,6 +134,74 @@ protected lemma bijective (f : S →+* Q) (hf : f.comp (algebraMap R S) = algebr
...
+
+variable {A : Type*} [CommSemiring A]
+  {R : Type*} [CommSemiring R] [Algebra A R] {M : Submonoid R}
+  {S : Type*} [CommSemiring S] [Algebra A S] [Algebra R S] [IsScalarTower A R S]
+  {P : Type*} [CommSemiring P] [Algebra A P] [IsLocalization M S]
+  {f : R →ₐ[A] P} (hf : ∀ y : M, IsUnit (f y)) (x : S)
+include hf
+
+/-- `AlgHom` version of `IsLocalization.lift`. -/
+noncomputable def liftAlgHom : S →ₐ[A] P :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Basic.lean:147]: I think we usually call it `liftₐ`

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 3]
```diff
@@ -134,6 +134,74 @@ protected lemma bijective (f : S →+* Q) (hf : f.comp (algebraMap R S) = algebr
...
+/-- If `S`, `Q` are localizations of `R` and `P` at submonoids `M`, `T` respectively,
+an isomorphism `h : R ≃ₐ[A] P` such that `h(M) = T` induces an isomorphism of localizations
+`S ≃ₐ[A] Q`. -/
+@[simps!]
+noncomputable def algEquivOfAlgEquiv : S ≃ₐ[A] Q :=
+  {
+    ringEquivOfRingEquiv S Q h.toRingEquiv H with
+    commutes' := fun _ ↦ by dsimp; rw [IsScalarTower.algebraMap_apply A R S, map_eq,
+      RingHom.coe_coe, AlgEquiv.commutes, IsScalarTower.algebraMap_apply A P Q]
+  }
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Basic.lean:184]:
```suggestion
  { ringEquivOfRingEquiv S Q h.toRingEquiv H with
    commutes' := fun _ ↦ by dsimp; rw [IsScalarTower.algebraMap_apply A R S, map_eq,
      RingHom.coe_coe, AlgEquiv.commutes, IsScalarTower.algebraMap_apply A P Q] }
```

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 4]
```diff
@@ -134,6 +134,74 @@ protected lemma bijective (f : S →+* Q) (hf : f.comp (algebraMap R S) = algebr
...
+
+variable {S Q h}
+
+theorem algEquivOfAlgEquiv_eq_map :
+    (algEquivOfAlgEquiv S Q h H : S →+* Q) =
+      map Q (h : R →+* P) (M.le_comap_of_map_le (le_of_eq H)) :=
+  rfl
+
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Basic.lean:192]: Can you add a (simp) lemma `algEquivOfAlgEquiv_symm : (algEquivOfAlgEquiv S Q h H).symm = (algEquivOfAlgEquiv Q S h.symm sorry)`?

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 5]
```diff
@@ -24,7 +24,7 @@ import Mathlib.RingTheory.Localization.Basic
 
 ## Implementation notes
 
-See `RingTheory/Localization/Basic.lean` for a design overview.
+See `Mathlib/RingTheory/Localization/Basic.lean` for a design overview.
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/FractionRing.lean:27]: I think we usually omit `Mathlib/`. Alternatively please change it everywhere (in `RingTheory/Localization`) if you  think this is better.

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 6]
```diff
@@ -144,9 +144,19 @@ end CommRing
...
   [IsFractionRing A K] {g : A →+* L}
 
+private lemma nontrivial_of_ringHom_nontrivial
+  {A B : Type*} [CommRing A] [CommRing B] (f : A →+* B) [Nontrivial B] : Nontrivial A := by
+  rcases subsingleton_or_nontrivial A with _ | h
+  · have : (1 : A) = 0 := Subsingleton.elim _ _
+    apply_fun f at this
+    rw [map_one, map_zero] at this
+    exact False.elim (one_ne_zero this)
+  exact h
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/FractionRing.lean:154]: This is `RingHom.domain_nontrivial` right?

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 7]
```diff
@@ -188,6 +198,30 @@ such that `z = f x * (f y)⁻¹`. -/
...
+include hg
+
+/-- `AlgHom` version of `IsFractionRing.lift`. -/
+noncomputable def liftAlgHom : K →ₐ[R] L :=
+  { lift hg with
+    commutes' := by
+      intro r
+      change IsLocalization.lift _ (algebraMap R K r) = _
+      simp [IsScalarTower.algebraMap_apply R A K]
+  }
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/FractionRing.lean:214]: Can this just come from `IsLocalization.liftAlgHom`?

File: Mathlib/RingTheory/Localization/FractionRing.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FractionRing.lean:27]: No, omitting `Mathlib/` will just produce a link which links to 404, see https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/FractionRing.html

> Alternatively please change it everywhere (in `RingTheory/Localization`) if you think this is better.

Sure, if I spot them.

File: Mathlib/RingTheory/Localization/FractionRing.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FractionRing.lean:154]: Thanks!

File: Mathlib/RingTheory/Localization/FractionRing.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FractionRing.lean:214]: Let me try.

File: Mathlib/RingTheory/Localization/Basic.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Localization/Basic.lean:147]: There are also several maps calling `xxxAlgHom` in mathlib, for example [Polynomial.mapAlgHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/AlgebraMap.html#Polynomial.mapAlgHom), [Polynomial.CAlgHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/AlgebraMap.html#Polynomial.CAlgHom), [MvPolynomial.mapAlgHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/MvPolynomial/Basic.html#MvPolynomial.mapAlgHom), etc. As for `liftAlgHom`, there are [RingQuot.preLiftAlgHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/RingQuot.html#RingQuot.preLiftAlgHom), [RatFunc.liftAlgHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/RatFunc/Basic.html#RatFunc.liftAlgHom) and [PiTensorProduct.liftAlgHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PiTensorProduct.html#PiTensorProduct.liftAlgHom).

The only `liftₐ` in mathlib is [Ideal.Quotient.liftₐ](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Quotient/Operations.html#Ideal.Quotient.lift%E2%82%90), but there are other `ₐ` such as [IsLocalization.mapₐ](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/Algebra.html#IsLocalization.map%E2%82%90) and [AdicCompletion.evalₐ](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/AdicCompletion/Algebra.html#AdicCompletion.eval%E2%82%90).

What's the convention? Personally I perfer `liftAlgHom`.

(By the way, isn't `RatFunc.liftAlgHom` a special case of `IsFractionRing.liftAlgHom`? The condition `nonZeroDivisors (Polynomial K) ≤ Submonoid.comap φ (nonZeroDivisors L)` of that result is very strange... isn't it `Injective φ`? Because `Polynomial K` and `L` are both domains...)

File: Mathlib/RingTheory/Localization/Basic.lean (hunk 4 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Localization/Basic.lean:189]: Sure.

Comment (acmepjz) [reply Mathlib/RingTheory/Localization/Basic.lean:189]: Done.

File: Mathlib/RingTheory/Localization/FractionRing.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FractionRing.lean:27]: Done.

File: Mathlib/RingTheory/Localization/FractionRing.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FractionRing.lean:154]: Done.

File: Mathlib/RingTheory/Localization/FractionRing.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Localization/FractionRing.lean:214]: Done.

**Review by alreadydone — APPROVED** [review]

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 8]
```diff
@@ -134,6 +134,76 @@ protected lemma bijective (f : S →+* Q) (hf : f.comp (algebraMap R S) = algebr
...
+  {f : R →ₐ[A] P} (hf : ∀ y : M, IsUnit (f y)) (x : S)
+include hf
+
+/-- `AlgHom` version of `IsLocalization.lift`. -/
+noncomputable def liftAlgHom : S →ₐ[A] P :=
+  { lift hf with
+    commutes' := by
+      intro r
+      change lift hf (algebraMap A S r) = _
+      simp [IsScalarTower.algebraMap_apply A R S] }
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Basic.lean:152]: I prefer
```suggestion
noncomputable def liftAlgHom : S →ₐ[A] P where
  __ := lift hf
  commutes' := fun r ↦ show lift hf (algebraMap A S r) = _ by
    simp [IsScalarTower.algebraMap_apply A R S]
```
and elsewhere

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

File: Mathlib/RingTheory/Localization/Basic.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Basic.lean]: I think we should globally adapt the `ₐ` convention as it is shorter and clear enough.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Localization/Basic.lean]: > I think we should globally adapt the `ₐ` convention as it is shorter and clear enough.

This seems reasonable to me, but it probably belongs to another PR.

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 9]
```diff
@@ -212,6 +212,16 @@ theorem map_mem_nonZeroDivisors [Nontrivial M] [NoZeroDivisors M'] [ZeroHomClass
...
 
+theorem MulEquivClass.map_nonZeroDivisors {R S F : Type*} [MonoidWithZero R] [MonoidWithZero S]
+    [EquivLike F R S] [MulEquivClass F R S] (h : F) :
+    Submonoid.map h (nonZeroDivisors R) = nonZeroDivisors S := by
+  let h : R ≃* S := h
+  show Submonoid.map h.toMonoidHom _ = _
+  ext
+  simp_rw [Submonoid.map_equiv_eq_comap_symm, Submonoid.mem_comap, mem_nonZeroDivisors_iff,
+    ← h.symm.forall_congr_right, h.symm.coe_toMonoidHom, h.symm.toEquiv_eq_coe, h.symm.coe_toEquiv,
+    ← map_mul, map_eq_zero_iff _ h.symm.injective]
```
Comment (alreadydone) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:223]: probably
```suggestion
    ← map_mul, _root_.map_eq_zero_iff _ h.symm.injective]
```

Comment (alreadydone) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:223]: looks like to_additive alias malfunctioing in #18809 ...

Comment (riccardobrasca) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:223]: Oh, let's fix this first then.

Comment (alreadydone) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:223]: [36bca67](https://github.com/leanprover-community/mathlib4/pull/18661/commits/36bca679313efcbeed9659953752280f90803db2) should fix it.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by acmepjz** [comment]
> Can you please merge master and fix the error? Thanks!

Sorry, I was AFK for a while. Thanks for fixing the problem.
